US04431653
The mixture of 2-nitroimidazole (4.5 g, 40 mM) and 50% by weight NaH in mineral oil (1.92 g, 41 mM) in dimethylformamide (40 ml) was stirred at room temperature for 1/2 hr. A solution of 4-bromomethyl-1-piperidinecarboxaldehyde (8.3 g, 40 mM) in dimethylformamide (10 ml) was added to the above mixture and heated at 120° C. for 1/2 hr. After the reaction, solvent was removed in vacuo and water (50 ml) was added and the mixture was extracted with ethylacetate (2×75 ml). The extracts, dried over Na2SO4 was stripped to dryness which was then purified on silica gel column, eluted with 5% volume MeOH-95% volume CH2Cl2, to give 4[(2-nitro-1H-imidazol-1-yl)methyl]-1-piperidinecarboxaldehyde (2.4 g, 10 mL) in 25% yield.

reactant | 2-nitroimidazole | 40 mM, 4.5 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | NaH | [H-].[Na+]
reactant | 4-bromomethyl-1-piperidinecarboxaldehyde | 40 mM, 8.3 g | BrCC1CCN(CC1)C=O | C7H12BrNO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4[(2-nitro-1H-imidazol-1-yl)methyl]-1-piperidinecarboxaldehyde | 10 mL, 2.4 g, 25% yield | [N+](=O)([O-])C=1N(C=CN1)CC1CCN(CC1)C=O | C10H14N4O3
